US07745438B2
(2R,5R)-5-{(1S,2S)-2-Acetylamino-3-[3-(2,2-difluoroethoxy)-phenyl]-1-hydroxypropyl}-2-(1-methylcyclopentylmethoxy)-morpholine-4-carboxylic acid tert-butyl ester
Dissolve (2R,5R)-5-[(1S,2S)-2-acetylamino-1-hydroxy-3-(3-hydroxyphenyl)-propyl]-2-(1-methylcyclopentylmethoxy)-morpholine-4-carboxylic acid tert-butyl ester (204 mg) and 2,2-difluoro-1-bromoethane (0.065 mL) and cesium carbonate (391 mg) in N,N-dimethylformamide (5 mL) and heat to 60° C. for 18 hours. Dilute with ethyl acetate, wash with saturated aqueous sodium chloride, dry and purify (silica gel chromatography, eluting with 1:1 ethyl acetate:dichloromethane), to give the desired compound (223 mg).

reactant | (2R,5R)-5-[(1S,2S)-2-acetylamino-1-hydroxy-3-(3-hydroxyphenyl)-propyl]-2-(1-methylcyclopentylmethoxy)-morpholine-4-carboxylic acid tert-butyl ester | 204 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC=C1)O)NC(C)=O)O)OCC1(CCCC1)C | C27H42N2O7
reactant | 2,2-difluoro-1-bromoethane | 0.065 mL | FC(CBr)F | C2H3BrF2
reactant | cesium carbonate | 391 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,5R)-5-{(1S,2S)-2-Acetylamino-3-[3-(2,2-difluoroethoxy)-phenyl]-1-hydroxypropyl}-2-(1-methylcyclopentylmethoxy)-morpholine-4-carboxylic acid tert-butyl ester | 223 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC=C1)OCC(F)F)NC(C)=O)O)OCC1(CCCC1)C | C29H44F2N2O7
